US04749781
(c) (1S)-[3-Methyl-1-(3-amino-2-hydroxypropyl)butyl]carbamic acid, 1,1-dimethylethyl ester
(S)-[3-Methyl-1-(2,3-epoxypropyl)butyl]carbamic acid, 1,1-dimethylethyl ester (3.6 g., 15.7 mmole) is added to a solution of saturated ammonia/methanol (100 ml.) and stirred for 36 hours at room temperature. The reaction mixture is concentrated into a solid residue of 3.8 g. of (1S)-[3-methyl-1-(3-amino-2-hydroxypropyl)butyl]carbamic acid, 1,1-dimethylethyl ester; m.p. (76°) 90-92°.

reactant | (S)-[3-Methyl-1-(2,3-epoxypropyl)butyl]carbamic acid, 1,1-dimethylethyl ester | 15.7 mmole, 3.6 g | CC(C[C@@H](CC1CO1)NC(OC(C)(C)C)=O)C | C13H25NO3
reactant | ammonia methanol | 100 ml | N.CO
product | (1S)-[3-Methyl-1-(3-amino-2-hydroxypropyl)butyl]carbamic acid, 1,1-dimethylethyl ester | CC(C[C@@H](CC(CN)O)NC(OC(C)(C)C)=O)C | C13H28N2O3
